US05958942
ii) Synthesis of 1,2-dihydro-1-[3-(1-trifluoromethanesulfonylpiperidin-4-yl)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
In 20 ml of acetonitrile was suspended 1072 mg (3.0 mM) of 1,2-dihydro-1-[3-(piperidin-4-yl)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one dihydrochloride followed by addition of 0.9 ml (6.0 mM) of DBU at room temperature and thorough mixing. To the resulting solution was added 0.83 ml (6.0 mM) of triethylamine. Then, 1.29 g (3.6 mM) of N-phenyltrifluoromethanesulfonimide was added and the mixture was stirred at room temperature for 16 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was extracted with 100 ml of ethyl acetate. The organic layer was washed with 100 ml of saturated aqueous NaCl solution and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-ethanol=10:1) to provide 870 mg (yield 69.7%) of the title compound as light-brown crystals.

reactant | 1,2-dihydro-1-[3-(piperidin-4-yl)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one dihydrochloride | 3.0 mM, 1072 mg | Cl.Cl.N1CCC(CC1)CCCN1C(C=2N3C(C=CC=C13)=NC2)=O
reactant | DBU | 6.0 mM, 0.9 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 6.0 mM, 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 3.6 mM, 1.29 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1,2-dihydro-1-[3-(1-trifluoromethanesulfonylpiperidin-4-yl)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 870 mg, yield 69.7% | FC(S(=O)(=O)N1CCC(CC1)CCCN1C(C=2N3C(C=CC=C13)=NC2)=O)(F)F | C17H19F3N4O3S
